US07491728B2
Utilizing the methods described in Example 1 the title compound was prepared from 2-hydroxy-benzimidic acid methyl ester (750 mg, 4.0 mmol), 2-(2-fluoro-phenyl)-ethylamine (520 □l, 4.0 mmol) and methyl acetoacetate (4.0 mL) to provide 140 mg (10%) of 3-[2-(2-fluoro-phenyl)ethyl]-2-(2-hydroxy-phenyl)-6-methyl-3H-pyrimidin-4-one as a white solid after flash chromatography on ODS silica gel eluting with methanol-water (4:7) followed by recrystallization from a large volume of toluene (100 mL).

reactant | 2-hydroxy-benzimidic acid methyl ester | 4.0 mmol, 750 mg | COC(C1=C(C=CC=C1)O)=N | C8H9NO2
reactant | 2-(2-fluoro-phenyl)-ethylamine | 4.0 mmol | FC1=C(C=CC=C1)CCN | C8H10FN
reactant | methyl acetoacetate | 4.0 mL | C(CC(=O)C)(=O)OC | C5H8O3
solvent | methanol water | CO.O
product | 3-[2-(2-fluoro-phenyl)ethyl]-2-(2-hydroxy-phenyl)-6-methyl-3H-pyrimidin-4-one | 140 mg, 10% | FC1=C(C=CC=C1)CCN1C(=NC(=CC1=O)C)C1=C(C=CC=C1)O | C19H17FN2O2
